US06348474B1
Methyl 4-((2,2-dimethoxy)ethoxy)benzoate
Methyl 4-hydroxybenzoate (15.52 g), bromoacetaldehyde dimethyl acetal (16.90 g) and 60% sodium hydride (5.00 g) were heated in dimethyl formamide (50 ml) at 80° C. for 18 hr. Dimethyl formamide was distilled away from the reaction mixture, and toluene and water were added. The separated toluene layer was dried over magnesium sulfate, and the solvent was distilled away to give the objective compound (16.00 g).

reactant | Methyl 4-hydroxybenzoate | 15.52 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | bromoacetaldehyde dimethyl acetal | 16.90 g | COC(CBr)OC | C4H9BrO2
reactant | sodium hydride | 5.00 g | [H-].[Na+]
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | Methyl 4-((2,2-dimethoxy)ethoxy)benzoate | 16.00 g | COC(COC1=CC=C(C(=O)OC)C=C1)OC | C12H16O5
